datasets/10k_Mayr_OG.csv
SMILES Labelled
"Br[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1.CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>CN(C)C1=CC=C([CH:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64](Br)[CH:73]=[CH:72]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]([C:61](=[O:62])[O:82]CC)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].COC(=O)[C@@H]1CCC[N:12]1[C:11]1=[CH:10]CCCC1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1CCCC[C:11]1=[N+:12]1CCC[C@H]1C(=O)OC)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([CH:20]([C:31]2=[CH:32][CH:33]=[C:34]([O:37]C)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[C:72](=[O:73])[O:83]1 10=20
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>O=C(OCC1=CC=CC=C1)[NH+:12]=[C:11]([CH2:10][N:20]([N:21]=[C:22]([O-:23])[O:33]CC1=CC=CC=C1)[C:41](=[O:42])[O:43]CC1=CC=CC=C1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>CC[O:33][C:31]([C:20]1([CH:10]([S+:11](C)C)[C:61](C2=CC=C(OC)C=C2)=[O:62])CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])C=C1.C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1>>C1=CC=C([C:10]([CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])C=C1 10=20
"CN(C)C1=CC=C(C[C:10]2=[C:11]([O-:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN(C)C1=CC=C(C[C:10]2([CH:20]([CH:21]=[CH:22][N:23]3C(CC4=CC=CC=C4)C(=O)N(C)C3(C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](CC)[C:73]1=[S:74].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[N:82]1[C:11](=[O:12])[CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[C:61](=[O:62])[N:82](CC)[C:73]1=[S:74] 10,11=10,20;12=11,12"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)S1 10,11=10,20;12=11,12"
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[C+:11](C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20"
"C[Si](C)(C)[C:11](C)=[CH2:10].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[Si](C)(C)[C+:11](C)[CH2:10][CH:20]1C=CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"CC[O:62]/[C:11](=[C:10](\C1=CC=CC=C1)[C:71]#[N:72])[O-:12].CN1CCC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CCC3)[CH:45]=[CH:46]1)=[CH:32]2>>CC[O:62][C:11]([C:10](C1=CC=CC=C1)([CH:20]([C:31]1=[CH:32][C:33]2=[C:34](N(C)CCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12"
